Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Lipitor / Zocor / Zestril
 
Attending: ___.
 
Chief Complaint:
elevated CK
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
___ female history of hypertension hyperlipidemia, 
rheumatic heart disease, previously on statin, who presents 
after found to have elevated creatinine kinase this past ___ 
on outpatient lab check for oncologic workup. 

Per ___, patient denies any acute complaints this time including 
no back pain shortness of breath chest pain belly pain myalgias 
dysuria or decreased urine output. Patient states that she had 
the flu approximately 2 weeks prior and was taken off of her 
home statin at that time to concerns for LFT abnormalities. 
Differential includes possible autoimmune versus less likely 
related to statin given report of discontinuation of same 
approximately 2 weeks prior or rhabdomyolysis from recent 
influenza given the continue to elevate levels.

I reviewed VS, labs, orders, imaging, old records, meds.

VS T100.0 on admit, HR 91, now afebrile.

___ 08:49PM BLOOD WBC: 7.0 
___ 08:49PM BLOOD Hgb: 9.6* 
___ 03:09PM BLOOD Hgb: 10.2* 
___ 08:49PM BLOOD Neuts: 66.2 Lymphs: 17.6* Monos: 15.2* 
Eos: 0.3* Baso: 0.3 Im ___: 0.4 AbsNeut: 4.62 AbsLymp: 1.23 
AbsMono: 1.06* AbsEos: 0.02* AbsBaso: 0.02 
___ 08:49PM BLOOD Creat: 1.3* 
___ 03:09PM BLOOD Creat: 1.2* 
___ 08:49PM BLOOD UreaN: 26* Glucose: 122* CK(CPK): ___ 
___ 01:50PM BLOOD CK(CPK): ___ AST: 139* ALT: 46* 
___ 03:09PM BLOOD PEP: NO SPECIFIC ABNORMALITIES SEEN 
FreeKap: 43.6* FreeLam: 39.3* Fr K/L: 1.1 IgG: 1242 IgA: 710* 
IgM: 41 
___ 02:19AM URINE Blood: SM* Protein: TR* 
___ 11:30PM OTHER BODY FLUID FluAPCR: POSITIVE* 
___ 2:19 am URINE
  
   URINE CULTURE (Pending): 
 
Patient is s/p 1L NS.

I discussed ___ resident.  The cancer work up was getting done 
because of unknown weightloss.  ___ states that there was a plan 
to do a CT Torso for further w/u.  

I reviewed outpatient records that noted she had elevated CK 
___ with concern for post influenza rhabdo.  Confirmed they 
had planned CT Torso for malignancy work up.  There is a concern 
for a 'chronic inflammatory state' as etiology of anemia.  

Per outpatient records, she has chronic borderline/mild hypo 
proliferative, normocytic anemia on review of blood counts which 
dates back to more than ___ years ago. She has an elevated 
ferritin and ESR also X ___ years indicating a chronic 
inflammatory process and raising the possibility of an 
inflammatory block leading to a hypo proliferative anemia. Has 
an elevated polyclonal IgA. Her SPEP was negative for a 
monoclonal protein. Polyclonal IgA elevation can be seen in 
autoimmune disease and liver disease.  Her CKD is also a likely 
contributor to her anemia and in this regard, she had an 
erythropoietin level measured long ago that was inappropriately 
normal. It was thought that a hx of rheumatic heart disease may 
have led to baseline inflammatory process. 

___ d/w patient.  She ntoes 2 weeks of mild ___ weakness and 
diffuse muscle aching.  She denies nausea, vomiting.  She denies 
fevers.  She has had chills.  She confirms weight loss, says she 
went down from 115-120 lb to 106lb over ___ year.  She denies 
stomach pain, but says her appetite is poor.  She ntoes 
intermittent loose stools, and says her legs have dry skin but 
that has been ongoing longer than muscle aches.  She confirms 
she dx w/ flu 2 weeks ago. 

ROS: Pertinent positives and negatives as noted in the HPI.  All 
other systems were reviewed and are negative.
 
Past Medical History:
HYPERCHOLESTEROLEMIA                                            
HYPERTENSION                                                    
OSTEOPENIA                                                      
STROKE without residual eakness                                  

MIGRAINE HEADACHES                                              
RHEUMATIC HEART DISEASE    
TONSILLECTOMY
 
Social History:
___
Family History:
Reviewed and not contributory to the reason for this admission.
 
Physical Exam:
ADMISSION PHYSICAL:
========================
VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma.  
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement 
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel 
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full 
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI, speech fluent, moves all limbs, sensation to light touch 
grossly intact throughout
PSYCH: pleasant, appropriate affect

DISCHARGE PHYSICAL:
===========================
VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: Alert and in no apparent distress
EYES: Anicteric, no conjunctival injection, pupils equally round
CV: Heart regular, no murmur appreciated, no S3, no S4.
RESP: Lungs clear to auscultation with good air movement 
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-tender in all quadrants, non-distended.  
No rebound or guarding.
EXT: Warm and well perfused. No ___ edema. No pain with palpation 
of the muscles in the legs, thighs, or shoulders.
NEURO: Alert, oriented, face symmetric, gaze conjugate with EOM, 
speech fluent, moves all limbs
PSYCH: pleasant, appropriate mood and affect
 
Pertinent Results:
ADMISSION LABS:
=============================
___ 08:49PM BLOOD WBC-7.0 RBC-3.25* Hgb-9.6* Hct-28.7* 
MCV-88 MCH-29.5 MCHC-33.4 RDW-15.1 RDWSD-48.7* Plt ___
___ 08:49PM BLOOD ___ PTT-28.8 ___
___ 08:49PM BLOOD Neuts-66.2 Lymphs-17.6* Monos-15.2* 
Eos-0.3* Baso-0.3 Im ___ AbsNeut-4.62 AbsLymp-1.23 
AbsMono-1.06* AbsEos-0.02* AbsBaso-0.02
___ 08:49PM BLOOD Glucose-122* UreaN-26* Creat-1.3* Na-138 
K-3.9 Cl-99 HCO3-24 AnGap-15
___ 08:49PM BLOOD ALT-85* AST-200* ___ 
AlkPhos-62 TotBili-<0.2
___ 08:49PM BLOOD Albumin-4.2
___ 09:45AM BLOOD TSH-2.0
___ 09:45AM BLOOD RheuFac-11 ___ CRP-3.8

DISCHARGE LABS:
=============================
___ 07:09AM BLOOD Glucose-84 UreaN-13 Creat-0.8 Na-143 
K-3.9 Cl-103 HCO3-27 AnGap-13
___ 07:09AM BLOOD ALT-50* AST-71* CK(CPK)-4884* AlkPhos-56 
TotBili-0.2
 
Brief Hospital Course:
Patient is a ___ year old female with a PMHx of HTN, HLD, 
rheumatic heart disease, recently diagnosed with the flu with 
associated myalgias, presenting with elevated CPK.

ACUTE/ACTIVE PROBLEMS:

#Elevated CPK
#Recent influenza
Her CPK on admission was elevated to 25,000. She did report 
significant myalgias with the flu that have been improving. 
While this seems markedly elevated for a flu infection, there 
are case reports of rhabdomyolysis due to influenza A with CPK > 
1,000,000 IU/L:
[Rhabdomyolysis Secondary to Influenza A Infection: A Case 
Report and Review of the Literature. ___ and ___ 
___. N Am J Med Sci. ___ Mar; 7(3): 122-124.]
She is also on pravastatin, though this is not a new medication.

Her CPK improved with IVF then continued improving for > 24 
hours when she was transitioned to PO hydration. CPK on 
discharge was 4900. She was advised to stay well hydrated for 
the next few days. She will need repeat CPK and Chem-7 at her 
PCP ___. She can have further workup for a myositis if her 
CPK does not normalize. We held pravastatin, though it seems 
less likely that this is the cause of her rhabdomyolysis, given 
the timing with the flu. It can likely be restarted with caution 
and close monitoring in ___ weeks, provided her CPK has 
normalized.

CHRONIC/STABLE PROBLEMS:
#HTN
-Continued Valsartan and hydrochlorothiazide.

#Weight Loss/Anemia
-Recommendation as outpatient to CT torso - this was not done in 
the hospital given the concern for renal injury from both 
pigment and contrast.

TRANSITIONAL ISSUES:
[ ] Repeat CPK and Chem-7 at PCP ___
[ ] Would wait ___ weeks before restarting Pravastatin (if 
needed), then monitor closely
[ ] CT torso per hematology recommendations was deferred as an 
inpatient

**The patient was seen and examined today and is stable for 
discharge. Greater than 30 minutes was spent on discharge 
planning and coordination.**
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ibuprofen 600 mg PO Q8H:PRN Pain - Mild 
2. Omeprazole 40 mg PO 2X/WEEK (MO,TH) 
3. Pravastatin 40 mg PO QPM 
4. Citracal + D3 (calcium phos) (calcium phosphate-vitamin D3) 
315-250 unit oral DAILY 
5. Multivitamins 1 TAB PO DAILY 
6. Diovan HCT (valsartan-hydrochlorothiazide) 320-25 mg oral 
DAILY 

 
Discharge Medications:
1.  Citracal + D3 (calcium phos) (calcium phosphate-vitamin D3) 
315-250 unit oral DAILY  
2.  Diovan HCT (valsartan-hydrochlorothiazide) 320-25 mg oral 
DAILY  
3.  Multivitamins 1 TAB PO DAILY  
4.  Omeprazole 40 mg PO 2X/WEEK (MO,TH)  
5. HELD- Ibuprofen 600 mg PO Q8H:PRN Pain - Mild  This 
medication was held. Do not restart Ibuprofen until you see Dr. 
___ discuss it with her.
6. HELD- Pravastatin 40 mg PO QPM  This medication was held. Do 
not restart Pravastatin until you see Dr. ___ discuss it 
with her.

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
rhabdomyolysis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital with muscle aches and abnormal 
labs, specifically the enzyme (called CPK) released by your 
muscles when they are damaged was very high. This can be 
dangerous for your kidneys, so we gave you IV fluids to protect 
them from injury. Your enzyme levels improved and your kidneys 
did not show any sign of damage. We think this was all caused by 
your flu infection.

It is very important that you stay well hydrated at home. You 
should drink enough water to urinate every ___ hours for the 
next 2 days.

You should also stop taking PRAVASTATIN until you see your 
primary doctor and have your blood work checked. Otherwise we 
did not make any changes to your home medications.

It is important to follow up with your primary team as scheduled 
below.

It was a pleasure taking care of you.

Sincerely,
Your ___ Care Team
 
Followup Instructions:
___